US06300368B1
4-Nitrophenol (4.01 g), 2-(tert-butoxycarbonylamino)ethanol (4.65 g) and triphenylphosphine (7.55 g) were dissolved into tetrahydrofuran (50 ml) and the solution was ice cooled. Azo dicarboxylic acid diethyl (5.52 g) dissolved in tetrahydrofuran (5 ml) was added drop-wise into the ice-cooled solution. After being stirred for one hour at room temperature, the reaction mixture was concentrated under vacuum. Residue was dissolved into ethyl acetate (50 ml). Hexane (400 ml) was added to the ethyl acetate solution and insoluble matter formed was removed from solution by filtration. Filtrate was concentrated under vacuum to small volume. Concentrate was purified by silica-gel column chromatography using ethyl acetate:hexane (1:1) as the solvent system to obtain N-(tert-butoxycarbonyl)-2-(4-nitrophenoxy)ethylamine (5.91 g) as color-less oily substance.

reactant | 4-Nitrophenol | 4.01 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 2-(tert-butoxycarbonylamino)ethanol | 4.65 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
reactant | triphenylphosphine | 7.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Azo dicarboxylic acid diethyl | 5.52 g | CCOC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(tert-butoxycarbonyl)-2-(4-nitrophenoxy)ethylamine | 5.91 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)[N+](=O)[O-] | C13H18N2O5
